US08710074B2
C. Step 3: Preparation of (4-Fluorophenyl)(3-(hydroxymethyl)-7,8-dihydro-1,6-naphthyridin-6(5H)-yl)methanone
(4-Fluorophenyl)(3-vinyl-7,8-dihydro-1,6-naphthyridin-6(5H)-yl)methanone (50 mg, 0.2 mmol; prepared as described above) was dissolved in CH2Cl2:MeOH (9:1, 15 mL) and cooled in a dry ice/acetone bath. Ozone was bubbled through the solution for 3 min and the reaction was allowed to warm to RT as then purged with an air inlet for 5 min. Sodium borohydride (65 mg, 1.7 mmol) in MeOH (10 mL) was added and the reaction allowed to stir for 1 h. The reaction mixture was concentrated, partitioned between water and EtOAc, and the water layer extracted with CH2Cl2:butanol (9:1). The volatiles were removed under reduced pressure to give 40 mg of crude product. The crude (4-fluorophenyl)(3-(hydroxymethyl)-7,8-dihydro-1,6-naphthyridin-6(5H)-yl)methanone was used in the next step without further purification. LC-MS (M+H)=287.2.

reactant | (4-Fluorophenyl)(3-vinyl-7,8-dihydro-1,6-naphthyridin-6(5H)-yl)methanone | 0.2 mmol, 50 mg | FC1=CC=C(C=C1)C(=O)N1CC=2C=C(C=NC2CC1)C=C | C17H15FN2O
reactant | Sodium borohydride | 1.7 mmol, 65 mg | [BH4-].[Na+]
reactant | CH2Cl2 MeOH | 15 mL | C(Cl)Cl.CO
solvent | MeOH | 10 mL | CO | CH4O
product | (4-Fluorophenyl)(3-(hydroxymethyl)-7,8-dihydro-1,6-naphthyridin-6(5H)-yl)methanone | 40 mg | FC1=CC=C(C=C1)C(=O)N1CC=2C=C(C=NC2CC1)CO | C16H15FN2O2
